US04476307
4-Bromo-2-chloro-6-methylanisole
4-Bromo-2-chloro-6-methylphenol (50 g, 0.225 mole) and K2CO3 (31.8 g, 0.23 mole) were combined in acetone (300 ml). Dimethyl sulfate (32 ml, 0.34 mole) was added dropwise and the mixture stirred 22 hours at room temperature, filtered and concentrated to an oil in vacuo. The oil was taken up in 250 ml ether, washed 2×2N NaOH, 1× saturated NaHCO3, 2× brine, dried over MgSO4, reconcentrated to an oil and distilled to yield purified title product, 42.9 g, b.p. 122°-124°/0.9 mm, pnmr/CDCl3 /delta/TMS:2.3 (s, 3H), 3.8 (s, 3H), 7.3 (q, 2H).

reactant | 4-Bromo-2-chloro-6-methylphenol | 0.225 mole, 50 g | BrC1=CC(=C(C(=C1)C)O)Cl | C7H6BrClO
reactant | K2CO3 | 0.23 mole, 31.8 g | C(=O)([O-])[O-].[K+].[K+]
reactant | Dimethyl sulfate | 0.34 mole, 32 ml | S(=O)(=O)(OC)OC | C2H6O4S
solvent | acetone | 300 ml | CC(=O)C | C3H6O
product | 4-Bromo-2-chloro-6-methylanisole | BrC1=CC(=C(C(=C1)C)OC)Cl | C8H8BrClO
